US08193189B2
1-[4-(4-Bromo-pyrazol-1-yl)-piperidin-1-yl]-ethanone
Acetyl chloride (312 μl, 4.35 mmol) is added dropwise, under stirring at 0° C., to a solution of 4-(4-Bromo-pyrazol-1-yl)-piperidine (as obtained in preparation 89, 1 g, 4.34 mmol), Et3N (1.824 ml, 13.04 mmol) in CH2Cl2. The cooling bath is then removed and the reaction mixture stirred at RT for an additional 1 h. The mixture is then diluted with de-ionized water and the phases are separated. The organic phase is washed several times with de-ionized water and the aqueous layer re-extracted with CH2Cl2. The combined organic layers are washed with brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo. The residue is used without further purification in the next step, and afford the title compound as yellow solid, Rt=0.786 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 272 (M+1, 79Br)+

reactant | Acetyl chloride | 4.35 mmol, 312 μl | C(C)(=O)Cl | C2H3ClO
reactant | 4-(4-Bromo-pyrazol-1-yl)-piperidine | 4.34 mmol, 1 g | BrC=1C=NN(C1)C1CCNCC1 | C8H12BrN3
reactant | Et3N | 13.04 mmol, 1.824 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-Bromo-pyrazol-1-yl)-piperidin-1-yl]-ethanone | BrC=1C=NN(C1)C1CCN(CC1)C(C)=O | C10H14BrN3O
